US07846960B2
(+/−)-3-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butyric Acid Ethyl Ester
To a solution of (+/−)-3-(4-Hydroxy-2-methyl-phenyl)-butyric acid ethyl ester (0.366 g, 0.748 mmol) in DMF (4 mL) is added cesium carbonate (1.1 g, 1.5 mmol). After 5 minutes at room temperature, 5-Chloromethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole (0.50 g, 0.748 mmol) is added and the reaction is heated to 50° C. overnight. Upon cooling, water is added followed by 1N HCl. The resulting mixture is extracted two times with ethyl acetate and the organic layers are combined and are washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue is purified via flash chromatography eluting with 3-5% ethyl acetate/toluene to give the title compound. 1H NMR (CDCl3) δ 1.113-1.163 (m, 6H), 1.26 (d, 6H), 2.399-2.532 (m, 2H), 2.952 (m, 1H), 3.388 (m, 1H), 4.024 (q, 2H), 4.741 (s, 2H), 6.513 (d, 1H), 6.544 (dd, 1H), 6.970 (d, 1H), 7.264 (t, 1H), 7.372 (d, 2H), 7.661 (s, 1H)

reactant | (+/−)-3-(4-Hydroxy-2-methyl-phenyl)-butyric acid ethyl ester | 0.748 mmol, 0.366 g | C(C)OC(CC(C)C1=C(C=C(C=C1)O)C)=O | C13H18O3
reactant | cesium carbonate | 1.5 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-Chloromethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole | 0.748 mmol, 0.50 g | ClCC1=C(C=NN1C1=C(C=CC=C1Cl)Cl)C(C)C | C13H13Cl3N2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (+/−)-3-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butyric Acid Ethyl Ester | C(C)OC(CC(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C26H30Cl2N2O3
